US04140790
32 g of 1-carbethoxy-piperazine and 24.5 g of allyl bromide are dissolved in 70 ml of ethanol. 25 g of calcined potassium carbonate are added to the solution and the mixture is stirred under reflux for 30 hours. The reaction mixture is cooled to 0° C, the solids are filtered off, and the filtrate is evaporated under reduced pressure. The residue is admixed with 55 ml of concentrated hydrochloric acid, the mixture is boiled for 24 hours and then it is evaporated. The residue is triturated with 30 ml of ethanol and the solid is filtered off. The obtained 27 g of solid 1-allyl-piperazine dihydrochloride are dissolved in 80 ml of water, the aqueous solution is rendered alkaline (pH = 8) with 20% aqueous sodium hydroxide solution, and the alkaline mixture is extracted with 3×80 ml of ethyl ether. The etheral extracts are combined, dried over sodium sulfate, filtered, and the ether is evaporated. The resulting 15.5 g of 1-allyl-piperazine are dissolved in 100 ml of ethanol, 12.3 g of trimethylene chlorohydrine and 18 g of calcined potassium carbonate are added to the solution, and the mixture is stirred and refluxed for 30 hours. The reaction mixture is cooled to 0° C, the solids are filtered off, and the filtrate is evaporated. The obtained residue is purified by distillation. In this way 15 g (45%) of 3-(4-allyl-piperazin-1-yl)-1-hydroxy-propane are obtained; b.p.: 98°-100° C/8 mm Hg; nD20 : 1.4935.

reactant | 1-carbethoxy-piperazine | 32 g | C(=O)(OCC)N1CCNCC1 | C7H14N2O2
reactant | allyl bromide | 24.5 g | C(C=C)Br | C3H5Br
reactant | potassium carbonate | 25 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethanol | 70 ml | C(C)O | C2H6O
product | 3-(4-allyl-piperazin-1-yl)-1-hydroxy-propane | 15 g, 45% | C(C=C)N1CCN(CC1)CCCO | C10H20N2O
